US08865675B2
Synthesis of Benzyl 5-(Methanesulfonyl)Pentanoate
To a solution of benzyl 5-hydroxypentanoate (2.01 g, 9.65 mmol) in anhydrous dichloromethane (30 mL) under nitrogen at −15° C. was added triethylamine (2.7 mL, 19.3 mmol) followed by a solution of methanesulfonyl chloride (1.5 mL, 19.3 mmol) dropwise over 20 minutes. The reaction was stirred at room temperature overnight and then diluted to 75 mL using dichloromethane. The organic layer was washed three times with saturated NaHCO3 and the combined aqueous layers backextracted with dichloromethane. The combined organic phases were dried over MgSO4, filtered, and concentrated. The resulting dark orange oil was purified by column chromatography (column 5″L×1″W; eluted with a gradient of 100% hexanes→10%→20%→25% diethyl ether in hexanes) to afford the product as a pale yellow oil (1.39 g, 50%).

reactant | benzyl 5-hydroxypentanoate | 9.65 mmol, 2.01 g | OCCCCC(=O)OCC1=CC=CC=C1 | C12H16O3
reactant | triethylamine | 19.3 mmol, 2.7 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 19.3 mmol, 1.5 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | Benzyl 5-(Methanesulfonyl)Pentanoate | 1.39 g, 50% | CS(=O)(=O)CCCCC(=O)OCC1=CC=CC=C1 | C13H18O4S
